US05128361
d) 1-Allyl-2-(2,3-dimethylphenoxy-methvl)-2-imidazoline hydrochloride (75)
4.84 g (30 mmol) of 2,3-dimethylphenoxy-acetonitrile, 3.3 g (33 mmol) of N-allyl-ethylenediamine and 260 mg of sodium polysulfide (Na2S4) are stirred together at 50° C. for 4 hours. The excess amine is then stripped off under a high vacuum, ethanolic hydrochloric acid is added to the residue and the hydrochloride is precipitated by addition of ether.

reactant | 2,3-dimethylphenoxy-acetonitrile | 30 mmol, 4.84 g | CC1=C(OCC#N)C=CC=C1C | C10H11NO
reactant | N-allyl-ethylenediamine | 33 mmol, 3.3 g | C(C=C)NCCN | C5H12N2
reactant | sodium polysulfide | 260 mg | [Na+].S
reactant | hydrochloric acid | Cl | ClH
product | 1-Allyl-2-(2,3-dimethylphenoxy-methvl)-2-imidazoline hydrochloride | Cl.C(C=C)N1C(=NCC1)COC1=C(C(=CC=C1)C)C | InChI=1S/C15H20N2O.ClH/c1-4-9-17-10-8-16-15(17)11-18-14-7-5-6-12(2)13(14)3;/h4-7H,1,8-11H2,2-3H3;1H
